US06747041B1
(4-2). Production of 3-[4-(heptafluoro-2-propyl)-2-methylphenyl]aminocarbonyl-2-(2-propyl)amino-carbonylpyridine-N-oxide (Compound No. 804)
In 10 ml of THF was dissolved 400 mg of N-[4-(heptafluoro-2-propyl)-2-methylphenyl]pyridine-2,3-dicarboximide-1-oxide, followed by adding thereto 200 mg of isopropylamine, and the resulting mixture was stirred at room temperature for 5 hours. After completion of the reaction, the solvent was distilled off under reduced pressure and the resulting residue was purified by a silica gel column chromatography using ethyl acetate/n-hexane as an eluent, to obtain 290 mg of the desired compound as white crystals.

reactant | N-[4-(heptafluoro-2-propyl)-2-methylphenyl]pyridine-2,3-dicarboximide-1-oxide | 400 mg | FC(C(F)(F)F)(C(F)(F)F)C1=CC(=C(C=C1)N1C(=O)C2=[N+](C=CC=C2C1=O)[O-])C | C17H9F7N2O3
reactant | isopropylamine | 200 mg | C(C)(C)N | C3H9N
reactant | THF | 10 ml | C1CCOC1 | C4H8O
product | 3-[4-(heptafluoro-2-propyl)-2-methylphenyl]aminocarbonyl-2-(2-propyl)amino-carbonylpyridine-N-oxide | 290 mg, Yield 63% | FC(C(F)(F)F)(C(F)(F)F)C1=CC(=C(C=C1)NC(=O)C1C(=[N+](C=CC1=C=O)[O-])NC(C)C)C | C20H18F7N3O3
